US07417169B2
N-[(1S,2R)-2-(4-Benzyloxy-3-methanesulfonylaminophenyl)-2-hydroxy-1-methylethyl]-2,2,2-trifluoroacetamide
Methanesulfonyl chloride (14 mL) was added to a mixture of N-[(1S,2R)-2-(3-amino-4-benzyloxyphenyl)-2-hydroxy-1-methylethyl]-2,2,2-trifluoroacetamide (62 g) and pyridine (34 mL) in ethyl acetate (558 mL) at room temperature with stirring, and the mixture was stirred at 40° C. for 1 hr. Ethyl acetate and water were added to the reaction mixture. The organic layer was separated, washed successively with 1 mol/L hydrochloric acid, water and brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was recrystallized from n-hexane/ethyl acetate to afford the title compound (42 g).

reactant | Methanesulfonyl chloride | 14 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-[(1S,2R)-2-(3-amino-4-benzyloxyphenyl)-2-hydroxy-1-methylethyl]-2,2,2-trifluoroacetamide | 62 g | NC=1C=C(C=CC1OCC1=CC=CC=C1)[C@H]([C@H](C)NC(C(F)(F)F)=O)O | C18H19F3N2O3
reactant | pyridine | 34 mL | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | ethyl acetate | 558 mL | C(C)(=O)OCC | C4H8O2
product | N-[(1S,2R)-2-(4-Benzyloxy-3-methanesulfonylaminophenyl)-2-hydroxy-1-methylethyl]-2,2,2-trifluoroacetamide | 42 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H]([C@H](C)NC(C(F)(F)F)=O)O)NS(=O)(=O)C | C19H21F3N2O5S
